US05470855
H) N-(3-pyridylmethyl) N'-(tert.butoxycarbonyl)ethanediamine (R1 =H; R2 =t--C4H9OCO; Z1 =(CH2)2 ; Z2 =CH2 ; Ar2 =3-pyridyl)
2.92 g of 3-pyridyl carboxaldehyde are added to a solution of 4.82 g of N-(tert.butoxycarbonyl)ethanediamine in 50 ml of toluene in the presence of a dehydrating agent (4 Å molecular sieves) at about 5° C.

reactant | 3-pyridyl carboxaldehyde | 2.92 g | C1=CC(=CN=C1)C=O | C6H5NO
reactant | N-(tert.butoxycarbonyl)ethanediamine | 4.82 g | C(C)(C)(C)OC(=O)NC(C)N | C7H16N2O2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | N-(3-pyridylmethyl) N'-(tert.butoxycarbonyl)ethanediamine | N1=CC(=CC=C1)CNC(C)NC(=O)OC(C)(C)C | C13H21N3O2
